US07378409B2
A suspension of 3-(methoxycarbonyl)benzyltriphenylphosphonium bromide (1.8 g, see J. Chem. Soc. 1961, 5015) in tetrahydrofuran (5 mL) was stirred on an ice bath and treated dropwise over 10 min with a solution of potassium bis(trimethylsilyl)amide (0.5 M in toluene, 7.3 mL). The resulting yellow suspension was stirred on ice for 15 min, then was treated with a solution of (1R,2S,5R)-tert-butyl 2-(benzyloxycarbonylamino)-7-hydroxy-6-aza-bicyclo[3.2.1]octane-6-carboxylate (460 mg) in tetrahydrofuran (3 mL). After allowing to stir on an ice bath for 75 min, the mixture was stirred at rt for 3 h. Saturated aqueous NH4Cl was added, the mixture was stirred rapidly until colorless, then was extracted three times with ethyl acetate. The combined organic phases were washed with 1.0 M aqueous HCl, then with brine, dried over Na2SO4 and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel, eluting with 2:1 v/v hexane-ethyl acetate, to provide methyl 3-((E)-2-((1S,2S,5R)-2-benzyloxycarbonylamino-5-(tert-butoxycarbonylamino)cyclohexyl)vinyl)benzoate as a glassy foam (365 mg). MS found: (M+H)+=509.3.

reactant | 3-(methoxycarbonyl)benzyltriphenylphosphonium bromide | 1.8 g | [Br-].COC(=O)C=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1
reactant | potassium bis(trimethylsilyl)amide | 0.5 M, 7.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (1R,2S,5R)-tert-butyl 2-(benzyloxycarbonylamino)-7-hydroxy-6-aza-bicyclo[3.2.1]octane-6-carboxylate | 460 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H]2C(N([C@H](CC1)C2)C(=O)OC(C)(C)C)O | C20H28N2O5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | methyl 3-((E)-2-((1S,2S,5R)-2-benzyloxycarbonylamino-5-(tert-butoxycarbonylamino)cyclohexyl)vinyl)benzoate | 365 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)/C=C/C=1C=C(C(=O)OC)C=CC1 | C29H36N2O6
